US06426345B1
To a mixture of 4-(3-biphenylyl)-2-(4-hydroxybenzyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (76 mg), triethylamine (0.05 ml) and 4-dimethylaminopyridine (3 mg) in 1,4-dioxane (2 ml) was added acetic anhydride (0.035 ml). The mixture was stirred at room temperature for 1 hour, then poured into a mixture of ethyl acetate and aqueous sodium bicarbonate. The organic phase was separated, washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated to give 2-(4-acetoxybenzyl)-4-(3-biphenylyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (58 mg).

reactant | 4-(3-biphenylyl)-2-(4-hydroxybenzyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 76 mg | C1(=CC(=CC=C1)N1C2=C(N=C(C1=O)CC1=CC=C(C=C1)O)C=CC=N2)C2=CC=CC=C2 | C26H19N3O2
reactant | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.035 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | 4-dimethylaminopyridine | 3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-acetoxybenzyl)-4-(3-biphenylyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 58 mg | C(C)(=O)OC1=CC=C(CC2=NC3=C(N(C2=O)C=2C=C(C=CC2)C2=CC=CC=C2)N=CC=C3)C=C1 | C28H21N3O3
